US09278944B2
To a solution of tert-butyl N-{1-[3-bromo-4-iodo-1-(3-methoxypropyl)-1H-indazol-6-yl]ethyl}cyclopropylcarbamate (1.0 g) in 1,4-dioxane (20 mL) were added diisopropylethylamine (0.90 mL) and 10% palladium on carbon catalyst (200 mg), and the mixture was stirred under hydrogen for 42 hours. An insoluble was filtered, and then the filtrate was sequentially washed with aqueous saturated sodium hydrogen carbonate solution and saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=9/1→4/1) to give tert-butyl cyclopropyl{1-[1-(3-methoxypropyl)-1H-indazol-6-yl]ethyl}carbamate [REx(30-1)] (167 mg) as a colorless oil.

reactant | tert-butyl N-{1-[3-bromo-4-iodo-1-(3-methoxypropyl)-1H-indazol-6-yl]ethyl}cyclopropylcarbamate | 1.0 g | BrC1=NN(C2=CC(=CC(=C12)I)C(C)N(C(OC(C)(C)C)=O)C1CC1)CCCOC | C21H29BrIN3O3
reactant | diisopropylethylamine | 0.90 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | tert-butyl cyclopropyl{1-[1-(3-methoxypropyl)-1H-indazol-6-yl]ethyl}carbamate | 167 mg | C1(CC1)N(C(OC(C)(C)C)=O)C(C)C1=CC=C2C=NN(C2=C1)CCCOC | C21H31N3O3
